US06384072B1
To a solution of a mixture of [1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-7H -benzocyclohepten-6-yl]methanol and [1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-5H-benzocyclohepten-6-yl]methanol (891 mg) in CH2Cl2 (10 ml) were added Et2Zn (1.0M hexane solution, 6.24 ml) and diiodomethane (0.838 ml) at −10 to −30° C. The mixture was stirred at the same temperature for 30 minutes. Then after warming to room temperature, the mixture was stirred for 8 hours. After addition of 1N-hydrochloric acid at 5° C., the resultant was extracted with EtOAc. The organic layer was washed with water, saturated sodium hydrogencarbonate solution, water, and then brine. It was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 3:1) to give [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b-hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methanol (646.7 mg) as an amorphous solid.

reactant | [1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-7H -benzocyclohepten-6-yl]methanol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCCC(=C2)CO | C28H32O2Si
reactant | [1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-5H-benzocyclohepten-6-yl]methanol | 891 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCC=C(C2)CO | C28H32O2Si
reactant | Et2Zn | 1.0M, 6.24 ml | [Zn](CC)CC
reactant | diiodomethane | 0.838 ml | ICI | CH2I2
reactant | hydrochloric acid | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b-hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methanol | 646.7 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCCC1(C2C1)CO | C29H34O2Si
